US07576122B2
Dissolve 11.92 g decane-4,7-dione from the Step B above in 4.62 g acetic acid and 100 mL methanol. Add 1.16 g potassium hydroxide pellets. Stir to dissolve the potassium hydroxide. Cool the reaction mixture in an ice acetone bath at −15° C. Add 7.50 g benzylamine followed immediately with 5.4 g sodium cyanoborohydride in several portions. Let the reaction mixture warm up to room temperature over two days. Add 45 mL 4 N HCl drop-wise and stir for 30 minutes. Evaporate the reaction mixture under reduced pressure to remove most of the solvents. Dilute the residue with water, filter off some white solid, and extract the aqueous layer with ether. This ether solution contained 2,5-dipropylpyrrole. Cool the aqueous layer with an ice bath and add solid sodium hydroxide in small portions with stir until pH ˜13. Dissolve the white solid above in this mixture. Extract with ether several times. Wash the combined ether solution with saturated brine, dry over anhydrous Na2SO4 and evaporate to give the crude 1-benzyl-2,5-dipropylpyrrolidine. The cis and trans isomers were separated on silica gel (5˜10% EtOAc in hexanes with 1% Et3N). The fast eluting isomer was trans-1-benzyl-2,5-dipropylpyrrolidine. 1H NMR (CDCl3, 500 MHz) δ 7.38 (d, J=7.6 Hz, 2H), 7.29˜7.33 (m, 2H), 7.21˜7.24 (m, 1H), 3.83 (d, J=13.9 Hz, 1H), 3.66 (d, J=14.0 Hz, 1H), 2.86 (br s, 2H), 1.85˜1.94 (m, 2H), 1.45˜1.60 (m, 4H), 1.27˜1.37 (m, 2H), 1.09˜1.20 (m, 4H), 0.875 (t, J=7.2 Hz, 6H). The slower-eluting isomer was cis-1-benzyl-2,5-dipropylpyrrolidine. 1H NMR (CDCl3, 500 MHz) 7.29˜7.35 (m, 4H), 7.24˜7.26 (m, 1H), 3.77 (s, 2H), 2.53˜2.58 (m, 2H), 1.77˜1.84 (m, 2H), 1.52˜1.58 (m, 2H), 1.27˜1.44 (m, 4H), 1.13˜1.25 (m, 4H), 0.865 (t, J=7.2 Hz, 6H).

reactant | decane-4,7-dione | 11.92 g | CCCC(CCC(CCC)=O)=O | C10H18O2
reactant | potassium hydroxide | 1.16 g | [OH-].[K+]
reactant | benzylamine | 7.50 g | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium cyanoborohydride | 5.4 g | C(#N)[BH3-].[Na+]
reactant | HCl | 4 N, 45 mL | Cl | ClH
solvent | acetic acid | 4.62 g | C(C)(=O)O | C2H4O2
solvent | methanol | 100 mL | CO | CH4O
product | 1-benzyl-2,5-dipropylpyrrolidine | C(C1=CC=CC=C1)N1C(CCC1CCC)CCC | C17H27N
